US07429665B2
4-[3-(4-Benzyloxy-2-fluoro-phenyl)-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-4-yl]-pyridine
Following the procedure for the preparation of 2-{4-[-Pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline but substituting 4-[3-(4-Benzyloxy-2-fluoro-phenyl)-1H-pyrazol4-yl]-pyridine provided the title compound. MS: (M+H m/z=428.4).

reactant | 2-{4-[-Pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline | N1=CC=C(C=C1)C=1C(=NN(C1)CC(F)(F)F)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C26H19F3N4O
reactant | 4-[3-(4-Benzyloxy-2-fluoro-phenyl)-1H-pyrazol4-yl]-pyridine | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=NNC=C1C1=CC=NC=C1)F | C21H16FN3O
product | 4-[3-(4-Benzyloxy-2-fluoro-phenyl)-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-4-yl]-pyridine | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)CC(F)(F)F)F | C23H17F4N3O
